US04491586
N-Methyl-N1 -[2-[2-[3-(1-piperidinylmethyl)phenoxy] ethoxy]ethyl]-2-nitro-1,1-ethenediamine
A solution of 2-[2-[3-(1-piperidinylmethyl) phenoxy]ethoxy]ethanamine (0.4 g) and N-methyl-1-methylthio-2-nitro-etheneamine (0.24 g) in water (20 ml) and ethanol (20 ml) was stirred at 50° for 5h. The solution was diluted with water (20 ml) acidified to pH 1 with dilute hydrochloric acid and washed with ethyl acetate (2×50 ml). The aqueous solution was basified to pH 9 with potassium carbonate and extracted with ethyl acetate (3×50 ml). Evaporation of these organic extracts gave a yellow oil which solidified when triturated with cyclohexane. The solid was recrystallised from ethyl acetate (10 ml) to give the title compound as a white powder (0.17 g) m.p. 125.5°-126.5° .

reactant | 2-[2-[3-(1-piperidinylmethyl) phenoxy]ethoxy]ethanamine | 0.4 g | N1(CCCCC1)CC=1C=C(OCCOCCN)C=CC1 | C16H26N2O2
reactant | N-methyl-1-methylthio-2-nitro-etheneamine | 0.24 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | N-Methyl-N1 -[2-[2-[3-(1-piperidinylmethyl)phenoxy] ethoxy]ethyl]-2-nitro-1,1-ethenediamine | 0.17 g | CN(C(=C[N+](=O)[O-])N)CCOCCOC1=CC(=CC=C1)CN1CCCCC1 | C19H30N4O4
